US06455725B1
Methyl 4-Chloro-2-(3-methoxy-3-oxo-1-propenyl)-benzoate
At 2° C., a solution of 79.5 g of sodium nitrite in 150 ml of water is added to a mixture of 185.5 g of methyl 2-amino-4-chlorobenzoate, 785 ml of water and 190.5 ml of concentrated sulfuric acid. Subsequently, the mixture is stirred for 30 minutes, and 5.3 g of amidosulfonic acid are then added. The resulting reaction mixture is added dropwise to 108.2 g of methyl acrylate. 766 mg of palladium acetylacetonate are then added to the reaction mixture, which is then heated to 40° C. After a further 3.5 hours at 40° C., the resulting precipitate is filtered off, giving, after drying, 248.3 g of methyl 4-chloro-2-(3-methoxy-3-oxo-1-propenyl)-benzoate of melting point 87-89° C.

reactant | sodium nitrite | 79.5 g | N(=O)[O-].[Na+]
reactant | methyl 2-amino-4-chlorobenzoate | 185.5 g | NC1=C(C(=O)OC)C=CC(=C1)Cl | C8H8ClNO2
reactant | sulfuric acid | 190.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | amidosulfonic acid | 5.3 g | NS(=O)(=O)O | H3NO3S
reactant | methyl acrylate | 108.2 g | C(C=C)(=O)OC | C4H6O2
solvent | water | 150 ml | O | H2O
catalyst | palladium acetylacetonate | 766 mg | C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].[Pd+2]
solvent | water | 785 ml | O | H2O
product | Methyl 4-Chloro-2-(3-methoxy-3-oxo-1-propenyl)-benzoate | ClC1=CC(=C(C(=O)OC)C=C1)C=CC(=O)OC | C12H11ClO4
